US07692005B2
2-Ethyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 2-Ethyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.249 mmol) and THF (2.5 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (47.9 mg, 0.250 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The solid residue was redissolved in EtOAc (˜5 mL) and Hexane (˜40 mL) was added to the solution. The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (10 mL) to afford the title compound in 36% yield (0.0515 g, 0.089 mmol).

reactant | 2-Ethyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.249 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)CC)=O | C22H18N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.250 mmol, 47.9 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 36% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)CC)=O | C33H33N7O3
